US07691882B2
N-(6-Amino-5-(3-(6-benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-yl)-2-methoxy-acetamide
To a mixture of 3-(3-(6-benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridine-2,6-diamine (40 mg, 0.11 mmol) described in Example 25 and dichloromethane (1 mL) were added triethylamine (22 μL, 0.16 mmol) and methoxyacetyl chloride (15 mg, 0.14 mmol) at room temperature, which was stirred for 2 hours at the same temperature. The solids that precipitated in the reaction mixture were filtered out. Tetrahydrofuran was added to the solid thus obtained, and this mixture was filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (3.4 mg, 7%).

reactant | 3-(3-(6-benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridine-2,6-diamine | 0.11 mmol, 40 mg | C(C1=CC=CC=C1)OC1=CC=C(C=N1)CC1=NOC(=C1)C=1C(=NC(=CC1)N)N | C21H19N5O2
reactant | triethylamine | 0.16 mmol, 22 μL | C(C)N(CC)CC | C6H15N
reactant | methoxyacetyl chloride | 0.14 mmol, 15 mg | COCC(=O)Cl | C3H5ClO2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-(6-Amino-5-(3-(6-benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-yl)-2-methoxy-acetamide | 3.4 mg, 7% | NC1=C(C=CC(=N1)NC(COC)=O)C1=CC(=NO1)CC=1C=NC(=CC1)OCC1=CC=CC=C1 | C24H23N5O4
